US07932262B2
Step 3. Preparation of tert-butyl 4-(2-(ethylsulfonyl) quinazolin-7-yloxy)piperidine-1-carboxylate
To a solution of tert-butyl 4-(2-(ethylthio) quinazolin-7-yloxy)piperidine-1-carboxylate (1 eq) in THF (5 ml) was added a solution of oxone in water (5 ml) at 0° C. The reaction mixture was stirred for 30 min at 0° C. then warmed to room temperature and stirred for 4 h. The reaction was quenched with satd. sodium thiosulfate solution and basified with 1N NaOH. The product was extracted from basic layer with DCM. The DCM extracts were combined together, washed with brine and dried over sodium sulfate. The purification by flash column chromatography (70% EtOAc/Hexane) provide pure product in 60% yield. ES/MS m/z 422.0 (MH+).

reactant | tert-butyl 4-(2-(ethylthio) quinazolin-7-yloxy)piperidine-1-carboxylate | 1 eq | C(C)SC1=NC2=CC(=CC=C2C=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C20H27N3O3S
reactant | oxone | OOS(=O)[O-].[K+]
reactant | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | tert-butyl 4-(2-(ethylsulfonyl) quinazolin-7-yloxy)piperidine-1-carboxylate | 60% yield | C(C)S(=O)(=O)C1=NC2=CC(=CC=C2C=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C20H27N3O5S
